US05140011
174 mg (0.5 mmol) of (2S,3S,5S)-2-amino-1-cyclohexyl-5-isopropyl-7-phenoxy-3-heptanol are dissolved in 8 ml of acetonitrile, the solution is treated with 0.102 ml (0.5 mmol) of Hunig base, 220 mg (0.5 mmol) of BOP and 204 mg (0.5 mmol) of Boc-Phe-His-OH and the reaction mixture is stirred at room temperature for 3.5 hours. Thereafter, the mixture is taken up in ethyl acetate and the organic phase is washed once each time with 1N hydrochloric acid and 2N sodium carbonate solution, dried over sodium sulphate and evaporated under reduced pressure. Chromatography of the residue on silica gel with a 15:1 mixture of methylene chloride and methanol as the eluting agent yields 226 mg (60%) of t-butyl [(S)-α-[[1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-6-phenoxyhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate as a resin, MS: 732 (M+ H)+.

reactant | (2S,3S,5S)-2-amino-1-cyclohexyl-5-isopropyl-7-phenoxy-3-heptanol | 0.5 mmol, 174 mg | N[C@@H](CC1CCCCC1)[C@H](C[C@H](CCOC1=CC=CC=C1)C(C)C)O | C22H37NO2
reactant | Hunig base | 0.5 mmol, 0.102 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 0.5 mmol, 220 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Boc-Phe-His-OH | 0.5 mmol, 204 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C20H26N4O5
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl [(S)-α-[[1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-6-phenoxyhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | 226 mg, 60% | C1(CCCCC1)C[C@@H]([C@H](C[C@H](CCOC1=CC=CC=C1)C(C)C)O)NC(=O)C(CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C42H61N5O6
